US05321029
1,3-Di-cyclobutylmethyl-7-n-propyl xanthine
1,3-Di-cyclobutylmethyl-7-n-propyl xanthine was prepared from 1,3-di-cyclobutylmethyl xanthine and 1-chloropropane using an analogous procedure to that described in Example 5. The title compound was isolated as a crystalline solid, m.p. 91° C.

reactant | 1,3-di-cyclobutylmethyl xanthine | C1(CCC1)CN1C(=O)N(C=2N=CNC2C1=O)CC1CCC1 | C15H20N4O2
reactant | 1-chloropropane | ClCCC | C3H7Cl
product | 1,3-Di-cyclobutylmethyl-7-n-propyl xanthine | C1(CCC1)CN1C(=O)N(C=2N=CN(C2C1=O)CCC)CC1CCC1 | C18H26N4O2
